US04027027
Analogously to the process described in Example 23, 9.0 g of 2-(2-aminoethoxy)-benzamide and 9.3 g of 2-chloro-3-(2,3-epoxy-propoxy)-pyrazine give 1-[2-(2-carbamoylphenyloxy)-ethyl-amino]-3-(2-chloro-3-pyrazinyloxy)-2-propanol, melting point 132°-133° C. The neutral fumaric acid salt prepared therefrom using the calculated amount of fumaric acid crystallises from a mixture of methanol and diethyl ether, melting point 167°-168° C.

reactant | 2-(2-aminoethoxy)-benzamide | 9.0 g | NCCOC1=C(C(=O)N)C=CC=C1 | C9H12N2O2
reactant | 2-chloro-3-(2,3-epoxy-propoxy)-pyrazine | 9.3 g | ClC1=NC=CN=C1OCC1CO1 | C7H7ClN2O2
product | 1-[2-(2-carbamoylphenyloxy)-ethyl-amino]-3-(2-chloro-3-pyrazinyloxy)-2-propanol | C(N)(=O)C1=C(C=CC=C1)OCCNCC(COC=1C(=NC=CN1)Cl)O | C16H19ClN4O4
